US07612068B2
3-Iodo-biphenyl-4-ol
Biphenyl-4-ol((5.26 g, 30.9 mmol), sodium iodide (4.635 g, 30.9 mmol), sodium hydroxide (1.276 g, 31.9 mmol) was dissolved in methanol (85 mL) and cooled to 0° C. To the solution was added 12% (w/v) sodium hypochlorite (20 mL) dropwise maintaining the temperature below 4° C. The solution was stirred at this temperature for 1 hour and then 2M sodium thiosulfite (50 mL) wad added and the pH of the solution was adjusted to >pH 7 with 1M HCl. The mixture was filtered and the filtrate was washed with water. The solid was dried in a vacuum oven and then the title product was obtained as crystals after recrystallisation from heptane. Yield 7.08 g, 77%.

reactant | Biphenyl-4-ol | C1(=CC=C(C=C1)O)C1=CC=CC=C1 | C12H10O
reactant | sodium iodide | 30.9 mmol, 4.635 g | [I-].[Na+]
reactant | sodium hydroxide | 31.9 mmol, 1.276 g | [OH-].[Na+]
reactant | sodium hypochlorite | 20 mL | Cl[O-].[Na+]
reactant | sodium thiosulfite | 2M, 50 mL | S(=S)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 85 mL | CO | CH4O
product | 3-Iodo-biphenyl-4-ol | IC=1C=C(C=CC1O)C1=CC=CC=C1 | C12H9IO
